US05646144
(2R*,4S*)-2-benzyl-1-(3,5-bis-(trifluoromethyl)-benzoyl)-N-(4-quinolylmethyl)-4-piperidinamine
143 mg (561 mmol) of bis-(2-oxo-3-oxazolidinyl)phosphinic chloride and 144 μl (1.03 mmol) of triethylamine are added to a solution of 200 mg (467 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine and 113 mg (561 mmol) of 3,5-bis-(trifluoromethyl)-benzoic acid in 3 ml of methylene chloride, and the reaction mixture is left to stir at room temperature for 16 hours. It is then diluted with methylene chloride, and the organic phase is washed once each with 10% strength citric acid, 1N sodium bicarbonate solution and with brine, dried over magnesium sulfate and evaporated to dryness. The yellowish foam is chromatographed on silica gel with methylene chloride/methanol/conc. ammonia (1000:50:1). The title compound is obtained as yellow oil. TLC: methylene chloride/methanol/conc. ammonia (1000:50:1) Rf =0.34, FD-MS: M+ =667.

reactant | bis-(2-oxo-3-oxazolidinyl)phosphinic chloride | 561 mmol, 143 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 1.03 mmol, 144 μl | C(C)N(CC)CC | C6H15N
reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 467 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | 3,5-bis-(trifluoromethyl)-benzoic acid | 561 mmol, 113 mg | FC(C=1C=C(C(=O)O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | (2R*,4S*)-2-benzyl-1-(3,5-bis-(trifluoromethyl)-benzoyl)-N-(4-quinolylmethyl)-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)NCC1=CC=NC2=CC=CC=C12)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C31H27F6N3O
